US06602880B2
A solution of 4.7 g 7-(n-butyl)-9,9-dimethyl-3,7-diazabicyclo [3.3.1]nonane in 10 ml acetone was added dropwise to a solution of 4.2 g 2,4-dinitrofluorobenzene in 40 ml acetone with stirring. Stirring of the reaction mixture was continued at room temperature and the mixture was left to stand overnight. Then acetone was withdrawn and aqueous citric acid solution was added to the residue and this mixture was extracted twice with ethyl acetate. For further working-up, the aqueous residue was rendered alkaline with dilute sodium hydroxide solution. This mixture was again extracted twice with ethyl acetate. The combined organic phases were dried with magnesium sulfate and reduced. The residue was recrystallised from ether/hexane. 5.5 g 7-(n-butyl)-3-(2,4-dinitrophenyl)-9,9-dimethyl-3,7-diazabicyclo-[3.3.1]nonane with a melting point of 119° C. were obtained.

reactant | 7-(n-butyl)-9,9-dimethyl-3,7-diazabicyclo [3.3.1]nonane | 4.7 g | C(CCC)N1CC2CNCC(C1)C2(C)C | C13H26N2
reactant | 2,4-dinitrofluorobenzene | 4.2 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 7-(n-butyl)-3-(2,4-dinitrophenyl)-9,9-dimethyl-3,7-diazabicyclo-[3.3.1]nonane | 5.5 g | C(CCC)N1CC2CN(CC(C1)C2(C)C)C2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-] | C19H28N4O4
